US06291464B1
To a solution of N-(4-benzyloxycarbonyl-1-piperazinyl)-tert-butoxycarboxamide (28 g) in methanol (250 ml) was added 10% palladium on carbon (5 g), and the mixture was stirred at ambient temperature under 3 atm of hydrogen for 1 hour. Palladium on carbon was filtered off and the filtrate was concentrated to give N-(1-piperazinyl)-tert-butoxycarboxamide (17.6 g).

reactant | N-(4-benzyloxycarbonyl-1-piperazinyl)-tert-butoxycarboxamide | 28 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)NC(=O)OC(C)(C)C | C17H25N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | N-(1-piperazinyl)-tert-butoxycarboxamide | 17.6 g | N1(CCNCC1)NC(=O)OC(C)(C)C | C9H19N3O2
